US06005000
Mitsunoble coupling of 0.33 g (1.4 mmol) of 6-hydroxyflavone with 0.40 g (1.17 mmol) of 3,4-dibenzyloxy-5-(2-hydroxyethyl)-2(5H)-furanone and subsequent benzyl group deprotection by hydrogenation were performed in a similar manner as described in the synthesis of 3,4-dihydroxy-5-[2-(4-phenoxy)phenoxyethyl]-2(5H)-furanone to provide 3,4-dihydroxy-5-[2-(flavone-6-oxy)ethyl]-2(5H)-furanone as a tan solid: mp 200-220° C. dec. (acetone/hexanes), 1H NMR (DMSO-d6) δ 8.13-7.36 (m, 8H), 7.01 (s, 1H), 4.92 (dd, 1H), 4.17 (t, 2H), 2.47-2.27 (m, 1H), 1.98-1.85 (m, 1H). 13C NMR (DMSO-d6) δ 177.23, 170.22, 162.71, 156.02, 155.36, 150.80, 132.06, 131.51, 129.42, 126.59, 124.31, 123.85, 120.49, 117.44, 106.43, 105.85, 72.24, 64.20, 31.71. Anal Calcd for C21H16O7 +0.25 H2O: C, 65.55; H, 4.44. Found: C, 65.59; H, 4.49.

reactant | 6-hydroxyflavone | 1.4 mmol, 0.33 g | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 3,4-dibenzyloxy-5-(2-hydroxyethyl)-2(5H)-furanone | 1.17 mmol, 0.40 g | C(C1=CC=CC=C1)OC=1C(OC(C1OCC1=CC=CC=C1)CCO)=O | C20H20O5
product | 3,4-dihydroxy-5-[2-(flavone-6-oxy)ethyl]-2(5H)-furanone | OC=1C(OC(C1O)CCOC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O)=O | C21H16O7
